US07465795B2
4-Amino-8-(2,5-dimethoxyphenyl)-cinnoline-3-carboxylic acid allylamide
The title compound was prepared from 4-amino-8-bromo-cinnoline-3-carboxylic acid allylamide (273 mg, 0.89 mmol) and 2,5-dimethoxyphenyl boronic acid (201.1 mg, 1.11 mmol) according to Method A to afford an off-white solid (105 mg, 32%). 1H NMR (300.132 MHz, CDCl3) δ 8.64 (bs, 1H), 7.87 (d, J=7.3 Hz, 1H), 7.77-7.69 (m, 2H), 6.96 (t, J=2.8 Hz, 1H), 6.96 (s, 1H), 6.93 (d, J=1.8 Hz, 1H), 6.00-5.88 (m, 1H), 5.29 (dq, J=17.2, 1.6 Hz, 1H), 5.17 (dq, J=10.2, 1.4 Hz, 1H), 4.12 (tt, J=5.7, 1.6 Hz, 2H), 3.79 (s, 3H), 3.64 (s, 3H). MS APCI, m/z=365 (M+H). HPLC 1.76 min.

reactant | 4-amino-8-bromo-cinnoline-3-carboxylic acid allylamide | 0.89 mmol, 273 mg | C(C=C)NC(=O)C=1N=NC2=C(C=CC=C2C1N)Br | C12H11BrN4O
reactant | 2,5-dimethoxyphenyl boronic acid | 1.11 mmol, 201.1 mg | COC1=C(C=C(C=C1)OC)B(O)O | C8H11BO4
product | 4-Amino-8-(2,5-dimethoxyphenyl)-cinnoline-3-carboxylic acid allylamide | C(C=C)NC(=O)C=1N=NC2=C(C=CC=C2C1N)C1=C(C=CC(=C1)OC)OC | C20H20N4O3
